US07402595B2
[Step 1] 4-[(2-hydroxybutylamino)methyl]benzenesulfonamide hydrochloride
To a mixed suspension of 4-aminomethylbenzenesulfonamide hydrochloride (4.45 g), methanol (20 ml) and THF (10 ml) was added N-ethyldiisopropylamine (5.2 ml) and then 1,2-epoxybutane (2.58 ml) was added, and the mixture was heated under reflux for 12 hrs. A 1N aqueous sodium hydroxide solution was added and the reaction mixture was basified and di-t-butyl carbonate (6.55 g) was added. The mixture was stirred at room temperature for 2 hrs. The solvent was evaporated under reduced pressure, and the residue was partitioned between water and ethyl acetate. The ethyl acetate layer was washed with 1N hydrochloric acid, aqueous sodium hydrogen carbonate and brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=7/3→1/1). To the obtained colorless amorphous form was added 4N hydrochloric acid ethyl acetate solution (10 ml), and the mixture was stirred at room temperature for 30 min. The solvent was evaporated under reduced pressure, toluene was added and the solvent was again evaporated under reduced pressure. Diisopropyl ether was added to the obtained residue and the mixture was crystallized to give the title compound (2.58 g, 46%).

reactant | 4-aminomethylbenzenesulfonamide hydrochloride | 4.45 g | Cl.NCC1=CC=C(C=C1)S(=O)(=O)N
reactant | N-ethyldiisopropylamine | 5.2 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1,2-epoxybutane | 2.58 ml | O1CC1CC | C4H8O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | di-t-butyl carbonate | 6.55 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
product | 4-[(2-hydroxybutylamino)methyl]benzenesulfonamide hydrochloride | 2.58 g, 46% | Cl.OC(CNCC1=CC=C(C=C1)S(=O)(=O)N)CC | InChI=1S/C11H18N2O3S.ClH/c1-2-10(14)8-13-7-9-3-5-11(6-4-9)17(12,15)16;/h3-6,10,13-14H,2,7-8H2,1H3,(H2,12,15,16);1H
